US08076489B2
b) (R)-7-[2-(1,1-Dimethyl-2-phenyl-ethylamino)-1-hydroxy-ethyl]-5-hydroxy-3H-benzothiazol-2-one
(R)-1-(5-tert-Butoxy-2-isopropoxy-benzothiazol-7-yl)-2-(1,1-dimethyl-2-phenyl-ethylamino)-ethanol (40 mg) is stirred in formic acid (2 ml) for 72 hours. The formic acid is removed in vacuo and the title compound is obtained by reversed phase column chromatography using a Jones Flashmaster Personal™ flash chromatography system (ISOLUTE FLASH C18, gradient elution AcCN/water 0 to 50%). MS (ES+) m/e 359.26 (MH+) LCT57144

reactant | (R)-1-(5-tert-Butoxy-2-isopropoxy-benzothiazol-7-yl)-2-(1,1-dimethyl-2-phenyl-ethylamino)-ethanol | 40 mg | C(C)(C)(C)OC=1C=C(C2=C(N=C(S2)OC(C)C)C1)[C@H](CNC(CC1=CC=CC=C1)(C)C)O | C26H36N2O3S
solvent | formic acid | 2 ml | C(=O)O | CH2O2
product | (R)-7-[2-(1,1-Dimethyl-2-phenyl-ethylamino)-1-hydroxy-ethyl]-5-hydroxy-3H-benzothiazol-2-one | CC(CC1=CC=CC=C1)(C)NC[C@H](O)C1=CC(=CC=2NC(SC21)=O)O | C19H22N2O3S
